US08084448B2
B. 2-{2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-N-ethylacetamide
To a solution of {2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic acid (40 mg, 0.86 mmol) in DMSO (0.7 mL) is added HATU (49 mg, 0.129 mmol) and diisopropylethylamine (0.045 mL, 0.256 mmol). The mixture is stirred for 5 min then ethylamine (0.086 mL, 2M in THF) is added dropwise. Upon completion of the reaction, the mixture is acidified with 1N HCl and extracted with EtOAc. The organic phase is washed with brine and dried over magnesium sulfate. The solvent is removed under reduced pressure to give the title compound which is used directly in the next step.

reactant | {2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic acid | 0.86 mmol, 40 mg | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C=CC=C2)CC(=O)O)C=CC1N1S(NC(C1)=O)(=O)=O | C24H22N2O6S
reactant | HATU | 0.129 mmol, 49 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.256 mmol, 0.045 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethylamine | 2M, 0.086 mL | C(C)N | C2H7N
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 0.7 mL | CS(=O)C | C2H6OS
product | 2-{2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-N-ethylacetamide | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C=CC=C2)CC(=O)NCC)C=CC1N1S(NC(C1)=O)(=O)=O | C26H27N3O5S
